US07842688B2
c) Benzyl 3-hydroxy-4-(4-phenoxyphenyl)piperidine-1-carboxylate
A suspension of 0.200 g of benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate, 0.0906 g of phenylboric acid, 0.113 g of copper(II) acetate, 0.309 g of triethylamine, 0.700 g of 3 angstrom molecular sieves (powder) and 6 ml of dichloromethane is stirred vigorously at room temperature for 28 hours. The reaction mixture is clarified by filtration and concentrated by evaporation. The title compound is obtained as a yellowish solid from the residue by means of flash chromatography (SiO2 60F). Rf=0.44 (1:1 EtOAc-heptane); Rt=5.03.

reactant | benzyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 0.200 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OCC1=CC=CC=C1 | C19H21NO4
reactant | phenylboric acid | 0.0906 g | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | triethylamine | 0.309 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 0.113 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | Benzyl 3-hydroxy-4-(4-phenoxyphenyl)piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C25H25NO4
